US06348474B1
A mixture of 3-fluoro-4-nitrobenzoic acid (5.20 g), 2,4-dichlorobenzyl-amine (14.8 g) and toluene (35 ml) was refluxed under heating for 24 hr. The mixture was heated to room temperature, and water and ethyl acetate were added. The mixture was stirred and precipitated crystals were collected by filtration. The chloroform layer of the filtrate was separated and the solvent was distilled away. Ether was added to the residue and the precipitated crystals were collected by filtration. The crystals were combined, washed with ether and dried to give 3-(2,4-dichlorobenzyl-amino)-4-nitrobenzoic acid. Sulfuric acid (2.3 g) was added thereto, and the mixture was refluxed under heating in ethanol for 6 hr. The reaction mixture was concentrated and poured into a saturated aqueous solution of sodium hydrogencarbonate. The mixture was extracted with ethyl acetate, washed with saturated brine and dried. The solvent was distilled away and the residue was crystallized from a mixed solvent of ethyl acetate and hexane. The crystals were collected by filtration and dried to give the objective compound (4.0 g).

reactant | 3-fluoro-4-nitrobenzoic acid | 5.20 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | 2,4-dichlorobenzyl-amine | 14.8 g | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,4-dichlorobenzyl-amino)-4-nitrobenzoic acid | ClC1=C(CNC=2C=C(C(=O)O)C=CC2[N+](=O)[O-])C=CC(=C1)Cl | C14H10Cl2N2O4
